data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5161,5859,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21](=[O:22])[O:23][CH3:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:20]([C:21](=[O:22])[O:23][CH3:24])([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,27.97291367358895,-4.630717247921237
1626,1797,[CH3:15][C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:16]([CH3:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,14.565947122376594,-40.69327948366577
1142,1241,[CH2-:13][NH+:14]=[C:15]([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[NH:22][CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:15]([C:16](=[O:17])[NH:18][CH3:19])([C:20](=[O:21])[NH:22][CH3:23])[NH:14][CH2:13]2,water,298.15,14.048863000410812,-17.797519610732802
388,420,[CH3:1][C:2]#[C:3][C:4]([F:5])([F:6])[F:7].[CH3:8][O:9][C:10](=[O:11])[c:12]1[o:13][c:14](=[O:15])[c-:16]([C:17]([CH3:18])=[O:19])[o+:20]1>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[C:12]2([C:10]([O:9][CH3:8])=[O:11])[O:13][C:14](=[O:15])[C:16]1([C:17]([CH3:18])=[O:19])[O:20]2,water,298.15,21.21141097579809,-25.76218181534842
847,917,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][CH:9]=[N+:10]([CH3:11])[C-:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[CH:9]([CH3:8])[N:10]([CH3:11])[C:12]1([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,12.539221381761587,-52.42398645688768
242,265,[CH3:7][NH:8][C:9](=[O:10])[c:11]1[o:12][c:13](=[O:14])[c-:15]([C:16]#[N:17])[n+:18]1[CH3:19].[CH:1]#[C:2][C:3](=[O:4])[NH:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[NH:5][CH3:6])[C:11]2([C:9]([NH:8][CH3:7])=[O:10])[O:12][C:13](=[O:14])[C:15]1([C:16]#[N:17])[N:18]2[CH3:19],water,298.15,26.862475101914345,-10.94055192193556
4376,4997,[CH3:10][CH-:11][N+:12]([CH3:13])=[C:14]([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:11]([CH3:10])[N:12]([CH3:13])[C:14]1([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,21.446476681454342,-10.373675936817724
3645,4165,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]2[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:18](=[O:19])[O:17]2,water,298.15,18.92631609325104,-11.80018794954425
1573,1739,[CH3:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([C:21]#[N:22])[C:23]#[N:24])[C:25]([CH3:26])=[O:27].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:18]([C:16]([CH3:15])=[O:17])([C:25]([CH3:26])=[O:27])[NH:19][C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,27.934420647010565,-0.8163035820761934
3180,3588,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][N-:8][NH+:9]=[C:10]([CH3:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:8]([CH3:7])[NH:9][C:10]1([CH3:11])[C:12](=[O:13])[NH:14][CH3:15],water,298.15,28.67829099687409,-7.384065680326548
4118,4713,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:10]=[N:11][C:12]1([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,10.012997462849697,-34.984871458149875
3761,4309,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[CH-:11][NH+:12]=[C:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:11]([C:9]([O:8][CH3:7])=[O:10])[NH:12][C:13]1([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,27.031811706029128,-4.414406541698441
